US06399636B2
A solution of 2-formylthiazole (10 g, 88 mmol), 1,3-propanediol (8 mL) and p-TsOH (100 mg) in benzene (110 mL) was heated at reflux temperature for 15 h with removal of water using a Dean-Stark apparatus. The mixture was cooled to room temperature and washed twice with sat. aq. NaHCO3, twice with water and concentrated. The resulting solid was crystallized from hexane to provide 2-(1,3-Dioxan-2-yl)thiazole as a tan solid (10.4 g).

reactant | 2-formylthiazole | 88 mmol, 10 g | C(=O)C=1SC=CN1 | C4H3NOS
reactant | 1,3-propanediol | 8 mL | C(CCO)O | C3H8O2
reactant | p-TsOH | 100 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | benzene | 110 mL | C1=CC=CC=C1 | C6H6
product | 2-(1,3-Dioxan-2-yl)thiazole | 10.4 g | O1C(OCCC1)C=1SC=CN1 | C7H9NO2S
